US05908944
3.56 g (10 mmol) of 3-acetoxy-pregna-5,16-dien-20-one is dissolved in 20 ml of dioxane at 20° C. and mixed with 143.3 g (1 mmol) of copper(I) bromide. 9.4 ml (11 mmol) of a 10% solution of trimethyl aluminum in toluene is added to the reaction at room temperature under nitrogen atmosphere and, after completion of the addition, stirred for 10 minutes at 20° C. For hydrolysis of the reaction solution, 1 ml of water dissolved in 5 ml of dioxane is carefully added to the reaction. It is stirred for 10 minutes more and the inorganic precipitate filtered off with dioxane is washed again. The dioxane solution is concentrated by evaporation on a rotary evaporator and the residue is chromatographed on silica gel with ethyl acetate/hexane as eluent. After concentration by evaporation of the fractions, 1.12 g of 3-acetoxy-16α-methyl-pregn-5-en-20-one (30% of theory) is obtained.

reactant | 3-acetoxy-pregna-5,16-dien-20-one | 10 mmol, 3.56 g | C(C)(=O)OC1CC2=CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C23H32O3
reactant | trimethyl aluminum | C[Al](C)C
reactant | water | 1 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) bromide | 1 mmol, 143.3 g | [Cu]Br
product | 3-acetoxy-16α-methyl-pregn-5-en-20-one | 1.12 g, 30% | C(C)(=O)OC1CC2=CC[C@H]3[C@@H]4C[C@H]([C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C24H36O3
